US04214094
To a solution of 158.7 mg of 3,3-dimethyl-7-(4-chloroanilinomethyl)-1,4-benzodioxan-2-one in 10 ml of ethanol is added 5 ml of a 1/10 N sodium hydroxide aqueous solution and the mixture is warmed to give clear solution. The solution is concentrated and the precipitated crystals are collected by filtration, washed with water and ether, and dried to give 140 mg of sodium 2-[4-(4-chloroanilinomethyl)-2-hydroxyphenoxy]-2-methylpropionate, mp 121° to 125° C.

reactant | 3,3-dimethyl-7-(4-chloroanilinomethyl)-1,4-benzodioxan-2-one | 158.7 mg | CC1(OC2=C(OC1=O)C=C(C=C2)CNC2=CC=C(C=C2)Cl)C | C17H16ClNO3
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | sodium 2-[4-(4-chloroanilinomethyl)-2-hydroxyphenoxy]-2-methylpropionate | 140 mg | ClC1=CC=C(NCC2=CC(=C(OC(C(=O)[O-])(C)C)C=C2)O)C=C1.[Na+] | InChI=1S/C17H18ClNO4.Na/c1-17(2,16(21)22)23-15-8-3-11(9-14(15)20)10-19-13-6-4-12(18)5-7-13;/h3-9,19-20H,10H2,1-2H3,(H,21,22);/q;+1/p-1
